US08476297B2
To a solution of (S)-1,1,1-trifluoropropan-2-amine (90.9 μl, 884 μmol) in 4:1 CH2Cl2:THF (5 mL) is added di(1H-imidazol-1-yl)methanone (215 mg, 1326 μmol) and the flask was sealed and stirred at room temperature for 1.5 h. (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (307 mg, 1105 μmol) was added and the reaction stirred at 2 h. The reaction was directly purified by reverse phase HPLC to give (R)-1-(4-(trifluoromethyl)phenyl)-N—((S)-1,1,1-trifluoropropan-2-yl)-3,4-dihydroisoquinoline-2(1H)-carboxamide as a white powder. MS (ESI pos. ion) m/z: 417 (M+1).

reactant | (S)-1,1,1-trifluoropropan-2-amine | 884 μmol, 90.9 μl | FC([C@H](C)N)(F)F | C3H6F3N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | di(1H-imidazol-1-yl)methanone | 1326 μmol, 215 mg | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | 1105 μmol, 307 mg | FC(C1=CC=C(C=C1)[C@H]1NCCC2=CC=CC=C12)(F)F | C16H14F3N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (R)-1-(4-(trifluoromethyl)phenyl)-N—((S)-1,1,1-trifluoropropan-2-yl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | FC(C1=CC=C(C=C1)[C@H]1N(CCC2=CC=CC=C12)C(=O)N[C@H](C(F)(F)F)C)(F)F | C20H18F6N2O
